US04059612
348 Mg. of the lithium salt of the ketal acid, 4-(2-methyl-1,3-dioxolan-2-yl)butanoic acid was dissolved in 5 ml. anhydrous tetrahydrofuran. The solution was cooled to 0° C and 1.25 ml. of a 1.6 molar solution of methyllithium in dicthylether was added dropwise over a period of 1 hour while stirring under a nitrogen atmosphere. The solution was allowed to rise approximately to 20° C and kept at this temperature over a period of 2 hours. The reaction mixture as added to crushed ice and the organic solvents were removed in vacuo. The residue was extracted with ether, the extract was washed with a saturated sodium chloride solution, dried with magnesium sulfate, filtered and evaporated in vacuo to give crude 5-(2-methyl-1,3-dioxolan-2-yl)-2-pentanone.

reactant | lithium | [Li] | Li
reactant | 4-(2-methyl-1,3-dioxolan-2-yl)butanoic acid | CC1(OCCO1)CCCC(=O)O | C8H14O4
reactant | methyllithium | C[Li]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(2-methyl-1,3-dioxolan-2-yl)-2-pentanone | CC1(OCCO1)CCCC(C)=O | C9H16O3
